US04528076
A process for the production of bis-(5,5')-8- Anilino -1-naphthalene Sulfonate using an electrochemical cell, consisting of a container (a beaker), a carbon cloth anode, and a metal cathode. The electrochemical cell is charged with ingredients in accord with the following proportions--2.136 g (6.71 mmol) of 8- anilino - 1- naphthalene sulfonic acid ammonium salt dissolved in 100 mL of 0.1 M aqueous sodium perchlorate. As the solution is stirred (A stirring mechanism is used such as a magnetic stirring bar with the container (beaker) supported on a combination heat plate and magnetic drive stirrer), the D.C. power supply voltage is increased until current begins to flow between the electrodes. This solution is electrolyzed for approximately two hours through which time periodic samples are removed and monitored by Hplc (high performance liquid chromatography) until the amount of product reaches a maximum. Thereafter, the solvent is removed and the residue dissolved in a minimal amount of methanol and chromatographed on a short column of neutral alumina using methanol as the eluent. The solvent is removed and the residue dissolved in a minimum amount of water. Excess barium acetate is added to precipitate bis-Ans as barium salt that is collected and dissolved in water. An excess of potassium sulfate is added to convert the barium salt to dipotassium salt. This salt is recrystallized to give 0.686 g (1.01 mmol) of bis - (5,5') - 8 - anilino - 1 - naphthalene sulfonic acid dipotassium salt corresponding to substantially a thirty percent product yield.

reactant | 8- anilino - 1- naphthalene sulfonic acid ammonium salt | 6.71 mmol, -2.136 g | [NH4+].N(C1=CC=CC=C1)C=1C=CC=C2C=CC=C(C12)S(=O)(=O)[O-]
solvent | sodium perchlorate | 0.1 M, 100 mL | Cl(=O)(=O)(=O)[O-].[Na+]
product | bis - (5,5') - 8 - anilino - 1 - naphthalene sulfonic acid dipotassium salt | 1.01 mmol, 0.686 g | C1=CC=C(C=C1)NC2=C3C(=C(C=C2)C4=C5C=CC=C(C5=C(C=C4)NC6=CC=CC=C6)S(=O)(=O)O)C=CC=C3S(=O)(=O)O | C32H24N2O6S2
